US07538123B2
(1) 7-[(2,2-Dimethyl-[1,3]dioxolan-4-yl)methyl]-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinolin-2-one
300 mg of 7-((2,2-dimethyl-[1,3]dioxolan-4-yl)methyl)-6-methoxy-1,2,3,4-tetrahydroquinolin-2-one was dissolved in 6 ml of N,N-dimethylformamide. While cooling on ice, 49 mg of 60% sodium hydride was added to the reaction solution, and the obtained mixture was then stirred at room temperature for 30 minutes. Thereafter, 0.29 g of iodomethane was added to the reaction solution while cooling on ice. The obtained mixture was stirred at room temperature for 2 hours. The reaction solution was diluted with ethyl acetate and then washed with a saturated ammonium chloride aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate), so as to obtain 310 mg of the subject compound.

reactant | 7-((2,2-dimethyl-[1,3]dioxolan-4-yl)methyl)-6-methoxy-1,2,3,4-tetrahydroquinolin-2-one | 300 mg | CC1(OCC(O1)CC1=C(C=C2CCC(NC2=C1)=O)OC)C | C16H21NO4
reactant | sodium hydride | 49 mg | [H-].[Na+]
reactant | iodomethane | 0.29 g | IC | CH3I
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[(2,2-Dimethyl-[1,3]dioxolan-4-yl)methyl]-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | 310 mg | CC1(OCC(O1)CC1=C(C=C2CCC(N(C2=C1)C)=O)OC)C | C17H23NO4
